US07094780B1
To a solution of 1-(5-benzyl-5-azaspiro[2.4]hept-7-yl)ethanone oxime (Example A3,a, 2.90 g, 11.9 mmol) in methanol (100 mL) is added Raney-Nickel (2 g). Hydrogen is introduced to the reaction mixture at high pressure (48 psi) for 20 hours and the reaction mixture is filtered through celite, washed with methanol, and the combined filtrates concentrated in vacuo. The resulting residue is redissolved in dichloromethane (25 mL) and treated with di-tert-butyl dicarbonate (3.24 g, 14.9 mmol). After 1 hour, the mixture is concentrated and the product purified via flash column chromatography (1% triethylamine/7% isopropanol/92% dichloromethane) to afford [1-(5-benzyl-5-azaspiro[2.4]hept-7-yl)-ethyl]carbamic acid tert-butyl ester (1.47 g). MS CI: m/z 331 (MH+).

reactant | 1-(5-benzyl-5-azaspiro[2.4]hept-7-yl)ethanone oxime | 11.9 mmol, 2.90 g | C(C1=CC=CC=C1)N1CC2(CC2)C(C1)C(C)=NO | C15H20N2O
reactant | Hydrogen | [H][H] | H2
reactant | di-tert-butyl dicarbonate | 14.9 mmol, 3.24 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 100 mL | CO | CH4O
catalyst | Raney-Nickel | 2 g | [Ni] | Ni
product | [1-(5-benzyl-5-azaspiro[2.4]hept-7-yl)-ethyl]carbamic acid tert-butyl ester | 1.47 g | C(C)(C)(C)OC(NC(C)C1CN(CC12CC2)CC2=CC=CC=C2)=O | C20H30N2O2
